US05817671
5-(N-[2-thiophenecarbonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.100 gm (0.43 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.056 mL (0.52 mMol) 2-thiophenecarbonyl chloride, 0.052 gm (34%) of the title compound was recovered as a crystalline solid by the procedure described in Example 4.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.43 mMol, 0.100 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | 2-thiophenecarbonyl chloride | 0.52 mMol, 0.056 mL | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
product | 5-(N-[2-thiophenecarbonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.052 gm, 34% | S1C(=CC=C1)C(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C18H20N4OS
